US07683056B2
2-[3,5-Bis(trifluoromethyl)-phenyl]-N-{4-(2-chlorophenyl)-6-[(8aS) -hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide (E28)
To a solution of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(2-chlorophenyl)-3-pyridinyl]-N,2-dimethylpropanamide (WO 2005/002577; 0.11 mmol) in dry DMSO (1 ml) S -octahydropyrrolo[1,2-a]pyrazine, (0.22 mmol) and potassium carbonate (0.22 mmol) were added and the resulting mixture was shaken for 12 hours at 150° C. After cooling the dichloromethane was added (2 ml) and then isocyanate polymer bound was added (2.0 mmol), and the resulting mixture was shaken at room temperature overnight. Then the resin was filtered and the filtrate was concentrated under reduced pressure. Purifications were carried out using mass directed HPLC:

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(2-chlorophenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 0.11 mmol | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)Cl)(C)C)(F)F | C24H18Cl2F6N2O
reactant | octahydropyrrolo[1,2-a]pyrazine | 0.22 mmol | C1C2N(CCN1)CCC2 | C7H14N2
reactant | potassium carbonate | 0.22 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | isocyanate polymer bound | CN=C=O | C2H3NO
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[3,5-Bis(trifluoromethyl)-phenyl]-N-{4-(2-chlorophenyl)-6-[(8aS) -hexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl]-3-pyridinyl}-N,2-dimethylpropanamide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)Cl)N1C[C@H]2N(CC1)CCC2)(C)C)(F)F | C31H31ClF6N4O
